US20010014691A1
2-(3-Pyridyloxy)ethylamine
The 2-chloro-1-(3-pyridyloxy)ethane (1.23 g, 7.80 mmol) was dissolved in methanol (25 mL) and added to concentrated ammonium hydroxide solution (29.7%, 14.8 M, 55 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 125° C. (oil bath temperature) for 42 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (10 mL) was added to the residue, and the solution (pH 6) was extracted with ether (3×25 mL) to remove impurities. The aqueous layer was diluted with saturated NaCl solution (15 mL) and basified to pH 12 with 10% NaOH solution (5 mL). The mixture was extracted with chloroform (4×50 mL). The combined light-yellow chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 0.390 g (36.2%) of a light-yellow oil.

reactant | 2-chloro-1-(3-pyridyloxy)ethane | 7.80 mmol, 1.23 g | ClCCOC=1C=NC=CC1 | C7H8ClNO
reactant | ammonium hydroxide | 14.8 M, 55 mL | [OH-].[NH4+]
solvent | methanol | 25 mL | CO | CH4O
product | 2-(3-Pyridyloxy)ethylamine | 0.390 g, 36.2% | N1=CC(=CC=C1)OCCN | C7H10N2O
